US08304419B2
To a solution of 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-3-carboxylic acid (0.075 g, 0.368 mmol) in DMF (1 ml) was added HATU (0.168 g, 0.442 mmol), DIPEA (0.097 ml, 0.553 mmol) and dimethyl amine (2M in THF) (0.276 ml, 0.553 mmol) and the reaction stirred at RT for 1 h. Purification was accomplished by HPLC to afford methyl 3-chloro-4-[(dimethylamino)carbonyl]-1H-pyrrole-2-carboxylate (0.042 g, 49% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.40 (br. s., 1H) 7.23 (d, 1H) 3.80 (s, 3H) 2.93 (s, 6H). MS: m/z 231.0 (M+1).

reactant | 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-3-carboxylic acid | 0.368 mmol, 0.075 g | ClC=1C(=CNC1C(=O)OC)C(=O)O | C7H6ClNO4
reactant | HATU | 0.442 mmol, 0.168 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.553 mmol, 0.097 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethyl amine | 0.553 mmol, 2M, 0.276 ml | CNC | C2H7N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | methyl 3-chloro-4-[(dimethylamino)carbonyl]-1H-pyrrole-2-carboxylate | 0.042 g, 49% yield | ClC1=C(NC=C1C(=O)N(C)C)C(=O)OC | C9H11ClN2O3
